US04060526
Step 3. 2-[Benzyl(2-chloroethyl)amino]benzamide hydrochloride
2-[Benzyl(2-hydroxyethyl)amino]benzamide (10 g) was added at 0° to 50 ml SOCl2, stirred 71/2 hours at room temperature and left overnight. The mixture was concentrated on the rotovap, ethyl acetate added and the solid filtered to give 11 g product, m.171-4°.

reactant | 2-[Benzyl(2-hydroxyethyl)amino]benzamide | 10 g | C(C1=CC=CC=C1)N(C1=C(C(=O)N)C=CC=C1)CCO | C16H18N2O2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | 2-[Benzyl(2-chloroethyl)amino]benzamide hydrochloride | 11 g | Cl.C(C1=CC=CC=C1)N(C1=C(C(=O)N)C=CC=C1)CCCl | InChI=1S/C16H17ClN2O.ClH/c17-10-11-19(12-13-6-2-1-3-7-13)15-9-5-4-8-14(15)16(18)20;/h1-9H,10-12H2,(H2,18,20);1H
